US07728003B2
Step A. 3-Cyclohexylamino-propionic acid ethyl ester
Cyclohexylamine (0.86 g, 8.7 mmol) and 3-chloro-propionic acid ethyl ester (1.18 g, 8.67 mmol) were combined neat and K2CO3 (1.2 g, 8.7 mmol) and a catalytic amount of tetrabutylammonium iodide (ca. 5 mg) was added. The mixture was heated at 80° C. overnight. The resulting mixture was then partitioned between water and dichloromethane. The organic layer was dried (MgSO4) and concentrated to afford 1.25 g (72%) of the title compound.

reactant | Cyclohexylamine | 8.7 mmol, 0.86 g | C1(CCCCC1)N | C6H13N
reactant | 3-chloro-propionic acid ethyl ester | 8.67 mmol, 1.18 g | C(C)OC(CCCl)=O | C5H9ClO2
reactant | K2CO3 | 8.7 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium iodide | ca. 5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-Cyclohexylamino-propionic acid ethyl ester | 1.25 g, 72% | C(C)OC(CCNC1CCCCC1)=O | C11H21NO2
